US03937737
42 g (0.5 mol) of diketene were added dropwise to 77 g of acenaphthene (0.5 mole) in 300 ml of anhydrous hydrofluoric acid at -30°C while stirring. The temperature was maintained for 9 hours. The hydrofluoric acid was distilled off under reduced pressure at a temperature of the still of -30°C, the residue was washed until it was free from acid and distilled under reduced pressure. 10 g of unreacted acenaphthene were recovered (87 % conversion). At a transition temperature of 150° - 155°C under 0.4 torr 85 g (82 % of theory) of slightly yellowish 5-acetoacetyl-acenaphthene melting at 59°C were then obtained.

reactant | diketene | 0.5 mol, 42 g | C=C1CC(=O)O1 | C4H4O2
reactant | acenaphthene | 0.5 mole, 77 g | C1CC2=CC=CC3=CC=CC1=C23 | C12H10
solvent | hydrofluoric acid | 300 ml | F | FH
product | 5-acetoacetyl-acenaphthene | C(CC(=O)C)(=O)C1=CC=C2CCC=3C=CC=C1C32 | C16H14O2
